US07737149B2
5-(1,3,4,6,7,8,9,9a-Octahydropyrido[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide
2,3,4,6,7,8,9,9a-Octahydro-1H-pyrido[1,2-a]pyrazine (477 mg, 3.40 mmol) was added in one portion to 5-chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide (659 mg, 1.70 mmol) in anhydrous dimethylsulfoxide (1.70 ml) at 25° C. The resulting solution was stirred at 100° C. for 18 h. The crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH to afford impure material. The concentrated eluant was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% formic acid) and MeCN as eluents. The sample was then put through a basic HPLC system to obtain the free base. Fractions containing the desired compound were evaporated to dryness to afford the title compound (395 mg, 47%) as a cream solid.

reactant | 2,3,4,6,7,8,9,9a-Octahydro-1H-pyrido[1,2-a]pyrazine | 3.40 mmol, 477 mg | C1C2N(CCN1)CCCC2 | C8H16N2
reactant | 5-chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 1.70 mmol, 659 mg | ClC=1N=CC(=NC1)C(=O)NC=1NN=C(C1)CCC1=CC(=CC(=C1)OC)OC | C18H18ClN5O3
solvent | dimethylsulfoxide | 1.70 ml | CS(=O)C | C2H6OS
product | 5-(1,3,4,6,7,8,9,9a-Octahydropyrido[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | C1N(CCN2C1CCCC2)C=2N=CC(=NC2)C(=O)NC=2NN=C(C2)CCC2=CC(=CC(=C2)OC)OC | C26H33N7O3
